US09212187B2
Synthesis of 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile
Trifluoromethanesulfonic acid 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-yl ester(0.12 g), zinc cyanide(70 mg), tris(dibenzylideneacetone) dipalladium 7 mg), 1,1′-bis(diphenylphosphino) ferrocene(8 mg), and zinc powder(2 mg) were added to DMF (1 ml), and the mixture was heated for 20 minutes at 170° C. (microwave reactor). The reaction liquid was cooled to room temperature, and subjected to celite filtration. The filtrate was condensed under reduced pressure, and the residue was purified by silica gel column chromatography (hexane: ethyl acetate=50:50→0:100). The purified product was condensed under reduced pressure to give the title compound(77 mg) as a white solid.

reactant | Trifluoromethanesulfonic acid 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-yl ester | 0.12 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OS(=O)(=O)C(F)(F)F | C15H17F3N2O5S
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 70 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone) dipalladium | 7 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
catalyst | 1,1′-bis(diphenylphosphino) ferrocene | 8 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | zinc | 2 mg | [Zn] | Zn
product | 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile | 77 mg | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)C#N | C15H17N3O2
